### PR TITLE
Equivalence between fibered and displayed finite Sigma Decompositions

### PR DESCRIPTION
**Pull request by VictorBlanchi**
I defined what is a fibered and a displayed (finite) Sigma Decomposition. I characterized the equalities and I proved that there were equivalent.

### CODE REVIEW

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 1]
```diff
@@ -3,6 +3,8 @@
 ```agda
 module univalent-combinatorics.sigma-decompositions where
 
+open import foundation.sigma-decompositions
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/sigma-decompositions.lagda.md:6]: Can you add this in the list below, in alphabetic order

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 2]
```diff
@@ -64,4 +90,312 @@ module _
...
+
+  is-emb-Σ-Decomposition-Σ-Decomposition-𝔽 :
+    is-emb (Σ-Decomposition-Σ-Decomposition-𝔽 {l1} {l2} {l3} A )
+  is-emb-Σ-Decomposition-Σ-Decomposition-𝔽 =
+    is-emb-triangle-is-equiv
+      ( Σ-Decomposition-Σ-Decomposition-𝔽 A)
+      ( pr1)
+      ( map-inv-equiv ( equiv-Σ-Decomposition-𝔽-is-finite-subtype))
+      ( refl-htpy)
+      ( is-equiv-map-equiv
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/sigma-decompositions.lagda.md:180]: `is-equiv-map-inv-equiv`

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 3]
```diff
@@ -64,4 +90,312 @@ module _
...
+  is-finite-fibered-Σ-Decomposition D =
+    Σ-Prop
+      ( is-finite-Σ-Decomposition A (fst-fibered-Σ-Decomposition D))
+      ( λ p →
+        is-finite-Σ-Decomposition
+          ( (indexing-type-fst-fibered-Σ-Decomposition D) , (pr1 p))
+          ( snd-fibered-Σ-Decomposition D) )
+
+  private
+    map-reindexing-Σ-Σ :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/sigma-decompositions.lagda.md:237]: use `interchange-Σ-Σ` from `foundation.type-arithmetic-dependent-pair-types`

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 4]
```diff
@@ -64,4 +90,312 @@ module _
...
+          ( λ x →
+            is-finite-Σ-Decomposition
+              ( ( cotype-fst-displayed-Σ-Decomposition D x) , (pr2 p x))
+              ( snd-displayed-Σ-Decomposition D x) ))
+
+  private
+    map-reindexing-Σ-Π :
+      {l1 l2 l3 : Level}
+      {M : UU l1} {N : M → UU l2} {S : (m : M) → (nm : N m) → UU l3} →
+      Σ ((m : M) → N m) (λ n → ((m : M) → S m (n m))) → (m : M) → Σ (N m) (λ nm → S m nm)
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/sigma-decompositions.lagda.md]: use `distributive-Π-Σ` from `foundation.type-theoretic-principle-of-choice`

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 5]
```diff
@@ -64,4 +90,312 @@ module _
...
+  (D : fibered-Σ-Decomposition l l l l (type-𝔽 A))
+  where
+  map-is-finite-displayed-fibered-Σ-Decomposition :
+    type-Prop (is-finite-fibered-Σ-Decomposition A D) →
+    type-Prop (is-finite-displayed-Σ-Decomposition A
+      (map-equiv equiv-displayed-fibered-Σ-Decomposition D))
+  pr1 (pr1 (map-is-finite-displayed-fibered-Σ-Decomposition p)) =
+    pr1 (pr2 p)
+  pr2 (pr1 (map-is-finite-displayed-fibered-Σ-Decomposition p)) =
+    λ u → is-finite-Σ (pr2 (pr2 p) u) (λ v → (pr2 (pr1 p)) _ )
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/sigma-decompositions.lagda.md:360]: assume `u` before the equals sign to avoid lambda

File: src/foundation/sigma-decompositions.lagda.md [hunk 6]
```diff
@@ -297,3 +526,532 @@ module _
...
+        ( M)
+        ( λ z → P z)
+        ( λ z → Q (pr1 z) (pr2 z))
+
+  map-inv-displayed-fibered-Σ-Decomposition :
+    fibered-Σ-Decomposition (l2 ⊔ l4) l5 l2 l4 A
+  map-inv-displayed-fibered-Σ-Decomposition =
+    ( ( ( Σ M P) ,
+        ( λ (m , p) →
+          ( Q m p ,
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:862]: use `inhabited-cotype-snd-displayed-Σ-Decomposition`

File: src/foundation/sigma-decompositions.lagda.md [hunk 7]
```diff
@@ -297,3 +526,532 @@ module _
...
+            ( is-inhabited-cotype-Σ-Decomposition
+              ( fst-fibered-Σ-Decomposition fib-D)
+              ( map-inv-equiv f (pair u v) )))
+          ( is-inhabited-cotype-Σ-Decomposition
+            ( snd-fibered-Σ-Decomposition fib-D) u) ) ,
+      (  matching-correspondence-displayed-fibered-Σ-Decomposition)),
+      ( λ u →
+        ( V u) ,
+        ( ( λ v →
+          Y ((map-inv-equiv f) (pair u v)),
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:822]: use `inhabited-cotype-...`

File: src/foundation/sigma-decompositions.lagda.md [hunk 8]
```diff
@@ -297,3 +526,532 @@ module _
...
+      ≃ Σ ( Σ U V) (λ uv → Y ((map-inv-equiv f) uv))
+        by inv-equiv ( equiv-Σ-equiv-base Y (inv-equiv f))
+      ≃ Σ U ( λ u → Σ (V u) (λ v → Y (map-inv-equiv f (u , v))))
+        by assoc-Σ U V (λ uv → Y (map-inv-equiv f uv))
+
+  map-displayed-fibered-Σ-Decomposition :
+    displayed-Σ-Decomposition l4 (l3 ⊔ l5) l5 l3 A
+  map-displayed-fibered-Σ-Decomposition  =
+    ( ( U ,
+      ( λ u → Σ (V u) (λ v → Y ((map-inv-equiv f) (u , v))) ,
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:807]: Use Sigma of Inhabited-Type

File: src/foundation/sigma-decompositions.lagda.md [hunk 9]
```diff
@@ -297,3 +526,532 @@ module _
...
+
+    lemma3 :
+      inv-equiv (equiv-Σ-equiv-base Y (inv-equiv id-equiv)) ＝ id-equiv
+    lemma3 = (ap inv-equiv lemma2)  ∙ lemma
+
+    lemma4 :
+       ( assoc-Σ M P Y  ∘e
+         ( inv-equiv ( equiv-Σ-equiv-base Y (inv-equiv id-equiv)) ∘e
+         inv-assoc-Σ M P Y )) ＝ id-equiv
+    lemma4 = (ap (λ e → assoc-Σ M P Y ∘e (e ∘e inv-assoc-Σ M P Y)) lemma3) ∙ ((ap (λ e → assoc-Σ M P Y ∘e e) ( left-unit-law-equiv (inv-assoc-Σ M P Y))) ∙ eq-htpy-equiv (issec-map-inv-assoc-Σ M P Y))
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:979]: Use some line breaks

File: src/foundation/sigma-decompositions.lagda.md [hunk 10]
```diff
@@ -297,3 +526,532 @@ module _
...
+            by
+            eq-htpy-equiv (λ a → ap (map-equiv (equiv-Σ N id-equiv (inv-equiv ∘ t)))
+              ( lemma' lemma4 (map-equiv (( equiv-Σ (λ m → Σ (P m) (Q m)) id-equiv t )) (map-equiv s a))))
+            ＝
+        equiv-Σ N id-equiv (λ m → inv-equiv (t m) ∘e t m) ∘e s
+            by eq-htpy-equiv refl-htpy
+            ＝
+        s
+            by
+            eq-htpy-equiv (λ a → (htpy-map-Σ N refl-htpy (λ m p → (((map-inv-equiv (t m)) ∘ map-equiv (t m)) p  )) λ m → lemma' (left-inverse-law-equiv (t m))) (map-equiv s a))
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:1009]: line breaks

File: src/foundation/sigma-decompositions.lagda.md [hunk 11]
```diff
@@ -297,3 +526,532 @@ module _
...
+            htpy-matching-correspondence)) ,
+        λ (m : M) → id-equiv ,
+        ( ( λ (p : P m) → id-equiv ) ,
+        refl-htpy
+          ))
+
+is-equiv-map-displayed-fibered-Σ-Decomposition :
+  {l1 l : Level} → {A : UU l1} →
+  is-equiv (map-displayed-fibered-Σ-Decomposition {l1} {l} {l} {l} {l} {A} )
+is-equiv-map-displayed-fibered-Σ-Decomposition =
```
Comment (EgbertRijke) [inline src/foundation/sigma-decompositions.lagda.md:1047]: define this with `is-equiv-has-inverse`
